US04000302
2-chloromethylpyrazine (6.4 g.) was added over 20 minutes to a solution freshly prepared from sodium (0.23 g.) in ethanol (50 ml) to which cysteamine hydrochloride (5.7 g.) had been added gradually at 0° and stirred at this temperature for 2 hours. The suspension finally obtained was stirred at room temperature overnight, acidified with hydrochloric acid (pH 5) and concentrated under reduced pressure. The dry residue was extracted with ethanol and the extracts filtered and concentrated to give the crude product. Extraction with isopropyl alcohol, with the removal of some polymeric material and the addition of ether gave a cream coloured solid (3.5 g.) which was recrystallised from ethanol-ether to furnish 2-[(2-aminoethyl)thiomethyl]pyrazine hydrochloride m.p. 144°-146°.

reactant | 2-chloromethylpyrazine | 6.4 g | ClCC1=NC=CN=C1 | C5H5ClN2
reactant | sodium | 0.23 g | [Na] | Na
reactant | cysteamine hydrochloride | 5.7 g | Cl.NCCS
reactant | hydrochloric acid | pH 5 | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[(2-aminoethyl)thiomethyl]pyrazine hydrochloride | Cl.NCCSCC1=NC=CN=C1 | InChI=1S/C7H11N3S.ClH/c8-1-4-11-6-7-5-9-2-3-10-7;/h2-3,5H,1,4,6,8H2;1H
